US04661617
A mixture (2.90 g, 10.0 mmol) of ethyl 3-methyl-5-[4-(1-methylpropoxy)phenyl]-2-pentenoate and ethyl 3-methyl-5-[4-(1-methylpropoxy)phenyl]-3-pentenoate is combined with nickel chloride (129 mg, 1.0 mmol) and 80 ml of methanol and heated to 50°. Water (10 drops) is added to dissolve the nickel chloride. A second portion of nickel chloride (129 mg, 1.0 mmol) is heated with 10 drops of water, and the resulting solution is added, with 2 ml of methanol, to the mixture. The mixture is chilled to 15°, and sodium borohydride (757 mg, 20.0 mmol) is added in portions over 10 min. The mixture is allowed to warm to RT, and after 3.5 hours the nickel is removed by filtration. The filtrate is washed with methanol and concentrated in vacuo and water and ether are added. The aqueous phase is extracted with ether and the combined organic phases are washed with brine, dried, filtered and the filtrate concentrated to give ethyl 3-methyl-5-[4-(1-methylpropoxy)phenyl]pentanoate.

reactant | ethyl 3-methyl-5-[4-(1-methylpropoxy)phenyl]-2-pentenoate | 10.0 mmol, 2.90 g | CC(=CC(=O)OCC)CCC1=CC=C(C=C1)OC(CC)C | C18H26O3
reactant | ethyl 3-methyl-5-[4-(1-methylpropoxy)phenyl]-3-pentenoate | CC(CC(=O)OCC)=CCC1=CC=C(C=C1)OC(CC)C | C18H26O3
reactant | sodium borohydride | 20.0 mmol, 757 mg | [BH4-].[Na+]
catalyst | Water | 10 drops | O | H2O
catalyst | water | 10 drops | O | H2O
catalyst | nickel chloride | 1.0 mmol, 129 mg | [Ni](Cl)Cl
catalyst | nickel chloride | 1.0 mmol, 129 mg | [Ni](Cl)Cl
solvent | methanol | 2 ml | CO | CH4O
solvent | methanol | 80 ml | CO | CH4O
product | ethyl 3-methyl-5-[4-(1-methylpropoxy)phenyl]pentanoate | CC(CC(=O)OCC)CCC1=CC=C(C=C1)OC(CC)C | C18H28O3
